Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
tramadol
 
Attending: ___.
 
Chief Complaint:
fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is an ___ old female presenting after mechanical 
fall on eliquis. She states that she tripped over a dog bed 3 
days ago, and reports anterior chest strike and head strike. She 
denies LOC. She otherwise denies headache, vision changes, 
numbness, tingling, weakness, neck pain. She does report 
anterior chest pain and feels SOB because she feels pain when 
she takes a deep breath. She reports mild mid thoracic pain. 
Denies
abd pain, pelvic pain, or arm/leg pain.
 
Past Medical History:
Stroke without residual deficits ___
PE ___
GERD
Seasonal allergies

PSH: 
Appendectomy open
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R 
CHEST: tender over sternum 
PULM: Clear to auscultation b/l, No W/R/R  
ABD: Soft, nondistended, nontender, no rebound or guarding, 
normoactive bowel sounds, no palpable masses  
DRE: normal tone, no gross or occult blood  
Ext: No ___ edema, ___ warm and well perfused  
 
Pertinent Results:
___ 04:58AM BLOOD WBC-5.2 RBC-3.77* Hgb-12.6 Hct-38.5 
MCV-102* MCH-33.4* MCHC-32.7 RDW-12.6 RDWSD-47.6* Plt ___
___ 04:58AM BLOOD Glucose-89 UreaN-19 Creat-0.8 Na-140 
K-3.2* Cl-102 HCO3-25 AnGap-16
___ 04:58AM BLOOD Calcium-9.2 Phos-3.3 Mg-2.0

___ CT chest w/out contrast:
1. Nondisplaced fracture of the body of the sternum with mild 
surrounding soft
tissue stranding.
2. No acute rib fracture or other traumatic intrathoracic 
injury.

___ CT head w/out contrast:
No fracture or acute intracranial process.

___ CT C-spine w/out contrast:
1. No fracture.
2. Multilevel mild to moderate degenerative changes.
 
Brief Hospital Course:
Ms. ___ is an ___ old woman who presented to the ED 3 days 
after a mechanical fall in which she reported both chest strike 
and head strike. Imaging on initial evaluation revealed a 
non-displaced fracture of the sternum, but no other traumatic 
injuries. She was admitted overnight for pain control and 
further observation given that she fell while on eliquis, though 
she did not demonstrate any evidence of bleeding. She was 
transferred to the surgical floor where her vital signs were 
routinely monitored and she remained afebrile and 
hemodynamically stable. Her diet was regular, which she 
tolerated well. She was voiding adequate amounts of urine 
without difficulty. She was encouraged to mobilize out of bed 
and ambulate as tolerated, which she was able to do 
independently. Her pain level was routinely assessed and 
required titration, and her pain well controlled at discharge 
with an oral regimen as needed. Tertiary trauma survey was 
negative for additional traumatic injuries. She was discharged 
home on hospital day 3 in stable condition. Her eliquis was 
restarted prior to discharge and she will continue this 
medication at home as previously prescribed. 
 
Medications on Admission:
Lansoprazole 30DR
atenolol 25 daily
triamterene-HCTZ ___ daily
Simvastatin 20 mg daily
Eliquis 2.5 mg BID
MVT
Flonase 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q3hrs 
Disp #*45 Tablet Refills:*0 
4.  Senna 17.2 mg PO HS 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*30 
Tablet Refills:*0 
5.  Apixaban 2.5 mg PO BID  
6.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
7.  Simvastatin 20 mg PO QPM  
8.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sternal fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after 
falling at home on ___. You were found to have a 
non-displaced fracture of the body of the sternum, and were 
admitted overnight for monitoring and pain control. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.
 
Followup Instructions:
___